US07348449B2
Synthesis of 4-[2-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-oxoacetylamino]benzoic acid
In a manner similar to that of Example 22e, by reacting 0.4 g (0.88 mmol) of methyl 4-[2-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-oxoacetylamino]benzoate with 0.074 g (1.77 mmol) of lithium hydroxide hydrate, a yellow solid is obtained (0.21 g; yield=56%; m.p.=255° C.).

reactant | methyl 4-[2-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-oxoacetylamino]benzoate | 0.88 mmol, 0.4 g | CC1(CC=C(C=2C=CC(=CC12)C(C(=O)NC1=CC=C(C(=O)OC)C=C1)=O)C1=CC=C(C=C1)C)C | C29H27NO4
reactant | lithium hydroxide hydrate | 1.77 mmol, 0.074 g | O.[OH-].[Li+]
product | 4-[2-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthyl)-2-oxoacetylamino]benzoic acid | CC1(CC=C(C=2C=CC(=CC12)C(C(=O)NC1=CC=C(C(=O)O)C=C1)=O)C1=CC=C(C=C1)C)C | C28H25NO4
